US08314087B2
tert-Butyl 1-(1-(7-methoxyquinolin-4-yloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate.
A suspension of tert-butyl 1-(1-hydroxy-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate (275 mg, 974 μmol), 1,10-phenanthroline (35 mg, 195 μmol), cesium carbonate (635 mg, 1948 μmol), copper(I) iodide (19 mg, 97 μmol), and 4-iodo-7-methoxyquinoline in DMF (4 mL) was heated to 100° C. for 2 h. The reaction mixture was partitioned between CH2Cl2 (50 mL) and 5% NaHCO3 (25 mL). The aqueous was extracted twice with CH2Cl2 (5 mL). The combined extracts were concentrated onto dry silica (10 g) and purified on 80 grams of silica eluting with 0-6% 2M NH3 in MeOH/CH2Cl2. MS (ESI pos. ion) m/z (MH+): 440. Calc'd exact mass for C24H29N3O5: 439.

reactant | tert-butyl 1-(1-hydroxy-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate | 974 μmol, 275 mg | OCC(C)(C)N1C=C(C=CC1=O)NC(OC(C)(C)C)=O | C14H22N2O4
reactant | 1,10-phenanthroline | 195 μmol, 35 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 1948 μmol, 635 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-iodo-7-methoxyquinoline | IC1=CC=NC2=CC(=CC=C12)OC | C10H8INO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 97 μmol, 19 mg | [Cu]I
product | tert-Butyl 1-(1-(7-methoxyquinolin-4-yloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate | COC1=CC=C2C(=CC=NC2=C1)OCC(C)(C)N1C=C(C=CC1=O)NC(OC(C)(C)C)=O | C24H29N3O5
